US04237136
The procedure is as in Example 22, except that 5 g of 2-aminothiazole are reacted with 11.3 g of acetylene dicarboxylic acid di-n-butyl ester in presence of 50 ml of absolute ethanol. 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-butyl ester melting at 142°-144° C. is thus obtained in a yield of 8.1 g (64.3% of the theoretical).

reactant | 2-aminothiazole | 5 g | NC=1SC=CN1 | C3H4N2S
reactant | acetylene dicarboxylic acid di-n-butyl ester | 11.3 g | C(CCC)OC(=O)C#CC(=O)OCCCC | C12H18O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid n-butyl ester | C(CCC)OC(=O)C1=CC(N=C2N1C=CS2)=O | C11H12N2O3S
